US08377957B2
A solution of 2,4-dichloro-3-nitroquinoline (25 g, 0.10 mol) in N,N-dimethylformamide (DMF) (130 mL) was cooled to 0° C. Triethylamine (17.2 mL, 0.123 mol) and benzylamine (11.2 mL, 0.10 mol) were sequentially added, and the reaction was stirred at ambient temperature overnight. The reaction was poured into water (1 L), and the suspension was stirred for 30 minutes at room temperature. The resulting precipitate was isolated by filtration and washed with water to provide 31.92 g of N-benzyl-2-chloro-3-nitroquinolin-4-amine as a bright yellow powder.

reactant | 2,4-dichloro-3-nitroquinoline | 0.10 mol, 25 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])Cl | C9H4Cl2N2O2
reactant | Triethylamine | 0.123 mol, 17.2 mL | C(C)N(CC)CC | C6H15N
reactant | benzylamine | 0.10 mol, 11.2 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | water | 1 L | O | H2O
solvent | N,N-dimethylformamide | 130 mL | CN(C=O)C | C3H7NO
product | N-benzyl-2-chloro-3-nitroquinolin-4-amine | 31.92 g | C(C1=CC=CC=C1)NC1=C(C(=NC2=CC=CC=C12)Cl)[N+](=O)[O-] | C16H12ClN3O2
